US04672116
8-Chloro-5,6-dimethoxy-4-methylamino-2-hydroxyquinazoline
A solution of 8-chloro-2,5,6-trimethoxy-4-methylaminoquinazoline (1.80 g, 0.0054 moles), sodium iodide (0.989 g, 0.0066 moles) and glacial acetic acid (50 ml) was refluxed for 8 minutes. The glacial acetic acid was removed in vacuo and the residue was diluted with water (100 ml). After extracting the aqueous solution with dichloromethane (2×25 ml) the combined organic extracts were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. Recrystallization of the residue from ethyl acetate-isopropanol afforded the product (0.530 g), mp 219°-221° C.

reactant | 8-chloro-2,5,6-trimethoxy-4-methylaminoquinazoline | 0.0054 moles, 1.80 g | ClC=1C=C(C(=C2C(=NC(=NC12)OC)NC)OC)OC | C12H14ClN3O3
reactant | sodium iodide | 0.0066 moles, 0.989 g | [I-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-5,6-dimethoxy-4-methylamino-2-hydroxyquinazoline | 0.530 g | ClC=1C=C(C(=C2C(=NC(=NC12)O)NC)OC)OC | C11H12ClN3O3
